US07511041B2
To a suspension of 2-(4,5-dihydro-1H-imidazol-2-yl)aniline (5.00 g, 31.0 mmol) in 85% methanol (60 ml) at 0° C. was added cyanogen bromide (3.61 g, 34.1 mmol) by portions. This mixture was stirred at room temperature overnight. After the mixture was concentrated under reduced pressure, the resulting precipitate was collected by filtration. This pale green solid was washed with water, methanol and diethyl ether successively, and dried under reduced pressure to give 2,3-dihydroimidazo[1,2-c]quinazolin-5-ylamine hydrobromide (4.94 g, 60% yield).

reactant | 2-(4,5-dihydro-1H-imidazol-2-yl)aniline | 31.0 mmol, 5.00 g | N1C(=NCC1)C1=C(N)C=CC=C1 | C9H11N3
reactant | cyanogen bromide | 34.1 mmol, 3.61 g | N#CBr | CBrN
solvent | methanol | 60 ml | CO | CH4O
product | 2,3-dihydroimidazo[1,2-c]quinazolin-5-ylamine hydrobromide | 4.94 g, 60% yield | Br.N=1CCN2C(=NC=3C=CC=CC3C21)N | InChI=1S/C10H10N4.BrH/c11-10-13-8-4-2-1-3-7(8)9-12-5-6-14(9)10;/h1-4H,5-6H2,(H2,11,13);1H
